US08039460B2
Step A: (6S,9R)-6-(2,6-Difluorophenyl)-3-(1-methoxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine
Sulfuric acid (0.15 mL, 2.85 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,6-difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (120 mg, 0.285 mmol) in methanol (1.5 mL). The reaction mixture was heated to 60° C. After 3 h, the reaction was quenched with saturated aqueous sodium bicarbonate. The mixture was extracted with dichloromethane (3×), washed with saturated brine, dried over magnesium sulfate, filtered and concentrated. MS 336.2 (M+1).

reactant | Sulfuric acid | 2.85 mmol, 0.15 mL | S(O)(O)(=O)=O | H2O4S
reactant | tert-butyl [(6S,9R)-6-(2,6-difluorophenyl)-3-(1-hydroxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.285 mmol, 120 mg | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)O)NC(OC(C)(C)C)=O | C22H29F2N3O3
reactant | methanol | 1.5 mL | CO | CH4O
product | (6S,9R)-6-(2,6-Difluorophenyl)-3-(1-methoxy-1-methylethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C(C)(C)OC)N | C18H23F2N3O
